US07067517B2
Morpholine-4-carboxylic acid 3-(3,4-dimethoxy-phenyl)-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound (120 mg, 56% yield) was prepared from 3-(3,4-dimethoxy-phenyl)-7-hydroxy-4-methyl-chromen-2-one (156 mg, 0.50 mmol) and 1-methyl-3-(morpholine-4-carbonyl)-3H-imidazol-1-ium iodide (165 mg, 0.51 mmol).

reactant | 3-(3,4-dimethoxy-phenyl)-7-hydroxy-4-methyl-chromen-2-one | 0.50 mmol, 156 mg | COC=1C=C(C=CC1OC)C=1C(OC2=CC(=CC=C2C1C)O)=O | C18H16O5
reactant | 1-methyl-3-(morpholine-4-carbonyl)-3H-imidazol-1-ium iodide | 0.51 mmol, 165 mg | [I-].C[N+]1=CN(C=C1)C(=O)N1CCOCC1
product | Morpholine-4-carboxylic acid 3-(3,4-dimethoxy-phenyl)-4-methyl-2-oxo-2H-chromen-7-yl ester | 120 mg, 56% yield | COC=1C=C(C=CC1OC)C=1C(OC2=CC(=CC=C2C1C)OC(=O)N1CCOCC1)=O | C23H23NO7
